US06232467B1
To a stirred solution of glyoxylic acid monohydrate (80 mg, 0.87 mmol) in ethanol (6 mL) was added morpholine (76 mg, 0.87 mmol) in one portion. After 5 min (E)-1-hexenyl boronic acid (121 mg, 0.82 mmol) was added. The reaction mixture was heated at 50° C. for 36 hours, after which time precipitate was isolated by filtration, washed with cold ethanol (10 mL) and dried under vacuum to give (E)-2-morpholino-3-octenoic acid (177 mg,78% yield). 1H-NMR (360 MHz, d6-DMSO) δ 5.65 (dt, J=16.1 Hz, 7.0 Hz, 1H), 5.28 (dd, J=16.1 Hz, 9.1 Hz, 1H), 4.81 (d, J=9.1 Hz, 1H), 2.50 (m, 2H), 1.1 (m, 4H), 0.7 (t, J=7.1 Hz, 3H). 13C-NMR (90 MHz, d6-DMSO) δ 171.1, 136.7, 127.4, 68.8, 62.5, 56.7, 31.7, 30.2, 22.1, 13.9. HRMS-CI (M++1) Calcd for C12H21NO3: 228.1521, Found: 228.1513.

reactant | glyoxylic acid monohydrate | 0.87 mmol, 80 mg | O.C(C=O)(=O)O
reactant | morpholine | 0.87 mmol, 76 mg | N1CCOCC1 | C4H9NO
reactant | (E)-1-hexenyl boronic acid | 0.82 mmol, 121 mg | C(=C\CCCC)/B(O)O | C6H13BO2
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | (E)-2-morpholino-3-octenoic acid | 177 mg, 78% yield | O1CCN(CC1)C(C(=O)O)\C=C\CCCC | C12H21NO3
